US06133303
6-(2-Imidazole-1-yl-ethoxy)-2-thiophen-3-ylmethylene-3,4-dihydro-1H-naphthalen-1-one
According to the method of Example 8, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.250 g, 0.98 mmol) was reacted with 3-thiophene carboxaldehyde (0.166 g, 1.48 mmol) in 5.0 mL of 4% KOH in EtOH at room temperature to afford 0.265 g (77%) of the title compound as a cream-colored solid, mp 61-62° C.: CI-MS m/e 350 (M+), 351 (M+ +1);

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.98 mmol, 0.250 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 3-thiophene carboxaldehyde | 1.48 mmol, 0.166 g | S1C=C(C=C1)C=O | C5H4OS
solvent | KOH | 5.0 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 6-(2-Imidazole-1-yl-ethoxy)-2-thiophen-3-ylmethylene-3,4-dihydro-1H-naphthalen-1-one | 0.265 g, 77% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CSC=C1 | C20H18N2O2S
